US06051679
3-(2-bromo)ethoxythiophene
5.00 g of 3-methoxythiophene (Aldrich) was solubilized with 11.00 g of 2-bromoethanol in 20 mL of toluene, then 2.00 g of NaHSO4 was added in one portion. The mixture was heated and methanol was distilled off. The solution was cooled and washed with water and diethylether. The organic phase was dried with magnesium sulfate. After evaporation, a brown liquid was obtained which was purified by column chromatography on silica gel using a mixture of CCl4 and CHCl3 (9:1) as the eluent. An oil was recovered which was further purified by recrystallization in methanol. White crystals were then obtained with a yield of 67%. M.P.=46° C.

reactant | 3-methoxythiophene | 5.00 g | COC1=CSC=C1 | C5H6OS
reactant | 2-bromoethanol | 11.00 g | BrCCO | C2H5BrO
reactant | NaHSO4 | 2.00 g | OS(=O)(=O)[O-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(2-bromo)ethoxythiophene | yield of 67% | BrCCOC1=CSC=C1 | C6H7BrOS
